US07094790B2
A mixture of 12 g of methanesulfonic acid and 1.8 g of phosphorus pentoxide (P2O5) was stirred 12 hours. To this well stirred suspension was added 0.346 g (4.8 mmol) of acrylic acid and 0.808 g (4 mmol) of 2-amino-4-bromo-phenol. The reaction was heated at 78° C. for 5 hours, then cooled to room temperature. The reaction was then slowly poured into a well-stirred slurry of 15 mL of 50% aqueous NaOH in 200 g of ice and water. The mixture was then poured into a separatory funnel and shaken with 300 mL water, 200 mL of diethyl ether, and 75 mL of dichloromethane and shaken vigorously. A small quantity of solid was removed by suction filtration, and the filtrate again shaken vigorously in a separatory funnel. The organic phase was collected, dried over Na2SO4, and concentrated in vacuo to a thick syrup that crystallized to give large yellow stars. Purification by flash chromatography on silica gel (eluting with 1:1 hexane:dichloromethane) gave 0.404 g (45%) of 5-bromo-2-vinyl-benzooxazole as a white powder, mp 55–56° C. 1H NMR (300 MHz, CDCl3) δ 7.84 (d, J=1.8 Hz, 1H), 7.46 (dd, J=8.7, 1.8 Hz, 1 H), 7.40 (d, J=8.7 Hz, 1 H), 6.76 (dd, J=17, 10.5 Hz, 1 H), 6.50 (d, J=17 Hz, 1 H), 5.90 (d, J=10.5 Hz, 1 H); Mass spectrum: [M+H]+ at 224.0 & 226.0.

reactant | methanesulfonic acid | 12 g | CS(=O)(=O)O | CH4O3S
reactant | phosphorus pentoxide | 1.8 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | acrylic acid | 4.8 mmol, 0.346 g | C(C=C)(=O)O | C3H4O2
reactant | 2-amino-4-bromo-phenol | 4 mmol, 0.808 g | NC1=C(C=CC(=C1)Br)O | C6H6BrNO
reactant | NaOH | 15 mL | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 300 mL | O | H2O
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
product | 5-bromo-2-vinyl-benzooxazole | 0.404 g, 45% | BrC=1C=CC2=C(N=C(O2)C=C)C1 | C9H6BrNO
